US07351733B2
6-Bromo-N-(2-methoxyphenyl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine was prepared from 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-one (200 mg, 0.76 mmol) and o-anisidine (187 mg, 1.52 mmol) in a similar manner as described above and recrystallized from acetonitrile to give 30 mg (11%) as yellow crystals; 1H-NMR (DMSO-d6): δ 11.07 (s, 1H), 7.56 (d, 1H), 7.22 (d, 1H), 7.13 (dd, 1H), 6.84-6.73 (m, 3H), 6.60-6.56 (m, 1H), 4.85-4.80 (m, 1H), 4.72 (d, 1H), 3.73 (s, 3H), 2.70-2.53 (m, 2H), 2.00-1.75 (m, 4H); MS m/z (M−1) 369, 371.

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-one | 0.76 mmol, 200 mg | BrC=1C=C2C=3CCCC(C3NC2=CC1)=O | C12H10BrNO
reactant | o-anisidine | 1.52 mmol, 187 mg | COC=1C(=CC=CC1)N | C7H9NO
product | 6-Bromo-N-(2-methoxyphenyl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine | BrC=1C=C2C=3CCCC(C3NC2=CC1)NC1=C(C=CC=C1)OC | C19H19BrN2O
